US06790844B2
Synthesis of 7-(4-ethylpiperazin-1-yl)-5-[4-(trans-4-hydroxytetrahydropyran-2-yl)phenyl]thieno[2,3-c]pyridine dihydrochloride
The resulting compound and 7-(1-ethylpiperazin-4-yl)-5-bromothieno[2,3-c]pyridine (0.21 g) were reacted in the same manner as in Example 300-4, to give a reaction solution containing 7-(4-ethylpiperazin-1-yl)-5-[4-(trans-4-acetoxytetrahydropyran-2-yl)phenyl]thieno[2,3-c]pyridine. To the resulting reaction solution were added ethyl acetate and 2N hydrochloric acid, and the resulting insoluble matters were filtered off. The aqueous layer was separated, while the organic layer was extracted with 2N hydrochloric acid. The aqueous layers were combined and washed with ethyl acetate twice. The pH of the solution was adjusted to pH 10 by adding a 8N aqueous solution of sodium hydroxide thereto, and then the solution was extracted with ethyl acetate twice. The extract was washed with brine, dried over magnesium sulfate and the solvent was evaporated. Methanol (10 ml) was added to the resulting residue and dissolved, followed by the addition of a 5N aqueous solution of sodium hydroxide solution (1 ml). The resulting solution was left as it was at room temperature for 1 hr, and then the solvent evaporated. Water was added thereto, and then the mixture was extracted with ethyl acetate thrice. The extract was washed with brine, dried over magnesium sulfate, and then the solvent was evaporated. The resulting residue was purified by NH silica gel column chromatography (ethyl acetate/n-hexane system), to give 0.18 g of the free compound of the title compound as a colorless amorphous.

reactant | 7-(1-ethylpiperazin-4-yl)-5-bromothieno[2,3-c]pyridine | 0.21 g | C(C)N1CCN(CC1)C=1N=C(C=C2C1SC=C2)Br | C13H16BrN3S
reactant | 7-(4-ethylpiperazin-1-yl)-5-[4-(trans-4-acetoxytetrahydropyran-2-yl)phenyl]thieno[2,3-c]pyridine | C(C)N1CCN(CC1)C=1N=C(C=C2C1SC=C2)C2=CC=C(C=C2)[C@@H]2OCC[C@H](C2)OC(C)=O | C26H31N3O3S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(4-ethylpiperazin-1-yl)-5-[4-(trans-4-hydroxytetrahydropyran-2-yl)phenyl]thieno[2,3-c]pyridine dihydrochloride | 0.18 g | Cl.Cl.C(C)N1CCN(CC1)C=1N=C(C=C2C1SC=C2)C2=CC=C(C=C2)[C@@H]2OCC[C@H](C2)O | InChI=1S/C24H29N3O2S.2ClH/c1-2-26-9-11-27(12-10-26)24-23-19(8-14-30-23)15-21(25-24)17-3-5-18(6-4-17)22-16-20(28)7-13-29-22;;/h3-6,8,14-15,20,22,28H,2,7,9-13,16H2,1H3;2*1H/t20-,22-;;/m1../s1
